US06642227B2
3-Methyl-5-methylsulfanyl-4-(2-phenylamino-pyrimidin-4-yl)-thiophene-2-carbonitrile (IIb-7)
To a solution of 4-(3-dimethylamino-acryloyl)-3-methyl-5-methylsulfanyl-thiophene-2-carbonitrile (0.2 mmol) in acetonitrile (0.25 mL) was added N-phenyl guanidine (1 equivalent, 0.2 mmol) and the reaction heated at reflux for 24 hours. The resulting mixture was cooled to room temperature then diluted with methanol (3 mL). The resulting slurry was filterred washed with methanol to afford IIb-7.

reactant | 4-(3-dimethylamino-acryloyl)-3-methyl-5-methylsulfanyl-thiophene-2-carbonitrile | 0.2 mmol | CN(C=CC(=O)C=1C(=C(SC1SC)C#N)C)C | C12H14N2OS2
reactant | N-phenyl guanidine | 0.2 mmol, 1 equivalent | C1(=CC=CC=C1)NC(=N)N | C7H9N3
solvent | acetonitrile | 0.25 mL | C(C)#N | C2H3N
solvent | methanol | 3 mL | CO | CH4O
product | 3-Methyl-5-methylsulfanyl-4-(2-phenylamino-pyrimidin-4-yl)-thiophene-2-carbonitrile | CC1=C(SC(=C1C1=NC(=NC=C1)NC1=CC=CC=C1)SC)C#N | C17H14N4S2
